US07855294B2
1) Benzyl 4-(2-chlorophenyl)-4-hydroxypiperidine-1-carboxylate
9.74 g of the entitled compound was obtained as a pale yellow oily substance in the same manner as in Production Example 8-3, for which, however, benzyl 4-oxopiperidine-1-carboxylate was used in place of tert-butyl 3-oxo-8-aza-bicyclo-[3.2.1]octane-8-carboxylate used in Production Example 8-3, and 2-chlorophenylmagnesium bromide was used in place of the lithium reagent prepared from 2-bromobenzyl alcohol and n-butyllithium.

reactant | benzyl 4-oxopiperidine-1-carboxylate | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | 2-chlorophenylmagnesium bromide | ClC1=C(C=CC=C1)[Mg]Br
reactant | 2-bromobenzyl alcohol | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | n-butyllithium | C(CCC)[Li]
product | Benzyl 4-(2-chlorophenyl)-4-hydroxypiperidine-1-carboxylate | ClC1=C(C=CC=C1)C1(CCN(CC1)C(=O)OCC1=CC=CC=C1)O | C19H20ClNO3
